US05750526
1.63 g of 9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester is introduced into 40 ml of acetonitrile under nitrogen at room temperature. 3.63 ml of trimethylsilylbromide is rapidly instilled. The solution is stirred for 20 hours at room temperature and concentrated by evaporation. The residue is suspended in 50 ml of water, suctioned off and washed with water. The residue is dried at 105° C. and 0.7 torr. 1.12 g of 9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid of melting point 262° C. is obtained.

reactant | 9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester | 1.63 g | C(C)OP(OCC)(=O)C1CCC=2C=3N1C(C(NC3C=C(C2)C(F)(F)F)=O)=O | C16H18F3N2O5P
reactant | trimethylsilylbromide | 3.63 ml | C[Si](C)(C)Br | C3H9BrSi
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid | 1.12 g | FC(C=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)P(O)(=O)O)(F)F | C12H10F3N2O5P
